US05612286
3. 2-(N-Methoxyamino)-4-methoxy-6-trifluoromethylpyrimidine
66.6 g of a 1.6 molar solution of n-butyllithium (0.156 mol) in n-hexane were added dropwise to a solution of 6.5 g of O-methylhydroxylammonium chloride (78 mmol) in 200 ml of tetrahydrofuran at -10° C. Stirring was carried out for 10 minutes at -10° C., and 20 g of 4-methoxy-2-methylsulfonyl-6-trifluoromethylpyrimidine (78 mmol) were added to the cloudy solution. Stirring was carried out for 1 hour at 25° C., the reaction batch was introduced into 200 ml of water, and the organic phase was separated off, washed with water and dried. Removal of the solvent gave an oily, slightly impure product, which could be crystallized in pentane at -78° C. 7.5 g of the product (43% of theory) were obtained as colorless crystals of melting point. 44°-46° C.

reactant | n-butyllithium | 0.156 mol | C(CCC)[Li]
reactant | O-methylhydroxylammonium chloride | 78 mmol, 6.5 g | [Cl-].CO[NH3+]
reactant | 4-methoxy-2-methylsulfonyl-6-trifluoromethylpyrimidine | 78 mmol, 20 g | COC1=NC(=NC(=C1)C(F)(F)F)S(=O)(=O)C | C7H7F3N2O3S
reactant | water | 200 ml | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(N-Methoxyamino)-4-methoxy-6-trifluoromethylpyrimidine | 7.5 g, 43% | CONC1=NC(=CC(=N1)OC)C(F)(F)F | C7H8F3N3O2
